US06784185B2
Methyl 5-acetyl-2-isobutoxybenzoate
1-Iodo-2-methylpropane (13.35 ml, 117 mmol) was added to a mixture of methyl 5-acetylsalicylate (15 g, 77 mmol) and potassium carbonate (16 g, 117 mmol) in acetonitrile (500 ml), and the reaction stirred at 60° C. for 18 hours. TLC analysis showed starting material remaining, so additional 1-iodo-2-methylpropane (26.7 ml, 234 mmol) and potassium carbonate (16 g, 117 mmol) were added and the reaction stirred at 60° C. for a further 72 hours. TLC analysis showed starting material still remaining, so additional 1-iodo-2-methylpropane (13.35 ml, 117 mmol) and potassium carbonate (16 g, 117 mmol) were added and the reaction stirred at reflux for a further 3 hours. The cooled mixture was concentrated under reduced pressure and the residue partitioned between ethyl acetate and 1N sodium hydroxide solution. The phases were separated, the aqueous extracted with further ethyl acetate, and the combined organic solutions washed with brine, dried (MgSO4) and evaporated under reduced pressure to give the title compound as a brown oil, 8.3 g.

reactant | 1-Iodo-2-methylpropane | 117 mmol, 13.35 ml | ICC(C)C | C4H9I
reactant | methyl 5-acetylsalicylate | 77 mmol, 15 g | C(C)(=O)C1=CC=C(C(C(=O)OC)=C1)O | C10H10O4
reactant | potassium carbonate | 117 mmol, 16 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-iodo-2-methylpropane | 234 mmol, 26.7 ml | ICC(C)C | C4H9I
reactant | potassium carbonate | 117 mmol, 16 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-iodo-2-methylpropane | 117 mmol, 13.35 ml | ICC(C)C | C4H9I
reactant | potassium carbonate | 117 mmol, 16 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
product | Methyl 5-acetyl-2-isobutoxybenzoate | C(C)(=O)C=1C=CC(=C(C(=O)OC)C1)OCC(C)C | C14H18O4
